US06294541B1
4.39 g (I1 mmoles) of thioisoguanine and 7.10 g (121 mmoles) of neutral Raney-nickel are refluxed in 50 ml of 1-propanol for 4.5 hours. The nickel was filtered off and the filtrate evaporated to dryness. The residue (3.79 g/93.8%) was dissolved in 20 ml of chloroform and 0.4 ml methanol and filtered through 24 g of silicagel in a column also with 2% methanol. The combined fractions were washed with 1N NaOH and the organic phase evaporated to dryness. The residue (2.69 g/66.6%) was dissolved in 30 ml of dichloromethane and 0.6 ml methanol and again filtered through 30 g of silicagel. A total of 1.86 g (46.0%) of 3H-purine was isolated, which was dissolved in 20 ml of methanol, treated with 5.4 ml of 1N methanolic HCl, and evaporated in vacuo to dryness. Crystallization and recrystallization from dichloromethane and ethyl acetate gave 1.75 g (39.4%) of 3H-purine hydrochloride with mp 170-85° C.

reactant | thioisoguanine | 4.39 g | N1C(=S)N=C2N=CNC2=C1N | C5H5N5S
solvent | 1-propanol | 50 ml | C(CC)O | C3H8O
catalyst | Raney-nickel | 121 mmoles, 7.10 g | [Ni] | Ni
product | 3H-purine | 1.86 g, 46.0% | N1=CNC2=NC=NC2=C1 | C5H4N4
